US04289883
2 g of 5-(2,3-epoxypropoxy)-8-(2-propynyloxy)-3,4-dihydrocarbostyril was dissolved in 15 ml of methanol, and 2.6 g of t-butylamine was added to the solution, followed by allowing the mixture to stand at 15°-20° C. for 12 hours. After completion of the reaction, the methanol and the t-butylamine were evaporated under reduced pressure, and the resulting crude oil was converted into the hydrochloride thereof using hydrochloric acid and ethanol. The solvent was evaporated under reduced pressure, and the resulting crystals were dissolved in water and washed with chloroform to remove impurities. The aqueous layer was made alkaline with sodium hydroxide and then extracted with chloroform. The chloroform layer was washed with water and dried over anhydrous sodium sulfate. The chloroform was evaporated under reduced pressure to obtain colorless crystals, which were converted into the hydrochloride thereof with hydrochloric acid-ethanol. The solvent was evaporated under reduced pressure, and the residue was recrystallized from isopropanol to obtain 1.6 g of 8-(2-propynyloxy)-5-[3-(t-butylamino)-2-hydroxypropoxy]-3,4-dihydrocarbostyril hydrochloride having a melting point of 182°-183° C.

reactant | 5-(2,3-epoxypropoxy)-8-(2-propynyloxy)-3,4-dihydrocarbostyril | 2 g | O1C(COC2=C3CCC(NC3=C(C=C2)OCC#C)=O)C1 | C15H15NO4
reactant | t-butylamine | 2.6 g | C(C)(C)(C)N | C4H11N
reactant | hydrochloride | Cl | ClH
reactant | hydrochloric acid ethanol | Cl.C(C)O
solvent | methanol | 15 ml | CO | CH4O
product | 8-(2-propynyloxy)-5-[3-(t-butylamino)-2-hydroxypropoxy]-3,4-dihydrocarbostyril hydrochloride | 1.6 g | Cl.C(C#C)OC=1C=CC(=C2CCC(NC12)=O)OCC(CNC(C)(C)C)O | InChI=1S/C19H26N2O4.ClH/c1-5-10-24-16-8-7-15(14-6-9-17(23)21-18(14)16)25-12-13(22)11-20-19(2,3)4;/h1,7-8,13,20,22H,6,9-12H2,2-4H3,(H,21,23);1H
